US05622976
A mixture of 4-(1-benzylpiperidin-4-yl)butanamide oxime (1.0 g), sodium hydride (0.15 g) and molecular sieves 4A (2.0 g) in tetrahydrofuran (50 ml) was stirred at ambient temperature for 30 minutes. To the mixture was added dropwise a solution of methyl 3-quinuclidine carboxylate (0.49 g) in tetrahydrofuran (10 ml) and refluxed for 6 hours. After cooling to room temperature, the mixture was poured into water and extracted with ethyl acetate. The extracts were successively washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on alumina eluting with chloroform to give 3-[3-(1-benzylpiperidin-4-yl)propyl]-5-(quinuclidin-3-yl)-1,2,4-oxadiazole (0.5 g) as an oil.

reactant | 4-(1-benzylpiperidin-4-yl)butanamide oxime | 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCC(N)=NO | C16H25N3O
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | methyl 3-quinuclidine carboxylate | 0.49 g | N12CC(C(CC1)CC2)C(=O)OC | C9H15NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[3-(1-benzylpiperidin-4-yl)propyl]-5-(quinuclidin-3-yl)-1,2,4-oxadiazole | 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCC1=NOC(=N1)C1CN2CCC1CC2 | C24H34N4O
